US07947676B2
N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-(2-morpholin-4-ylethoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and morpholine to give the title compound in 40% yield; NMR Spectrum: 2.50 (hidden by DMSO, 4H), 2.80 (t, 2H), 3.55 (br s, 4H), 4.44 (t, 2H), 5.29 (s, 2H), 7.25 (d, 1H), 7.37 (t, 1H), 7.55-7.58 (m, 2H), 7.86-7.92 (m, 2H), 8.29 (s, 1H), 8.45 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 482 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-3-(2-morpholin-4-ylethoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 40% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2CCOCC2 | C23H24ClN7O3
